* Copyright 2022 GlobalFoundries PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

*******************************************************************************
* Document No.      : SM-BB-000149
* Revision          : 1
* Process Name      : 0.18um MCU 10V high voltage process
* Process ID        : TH18300G1A
*					  TH18300G4A
* Wafer ID          : TNL4435202 (10V LDNMOS & LDPMOS)
************************************************************************************************
* Models included in this release :
*
*      ModelName          Description
*      ---------          -----------
*      nfet_10v0_asym     BSIM4 based HV subcircuit model for 10V LDNMOS (*)
*      pfet_10v0_asym     BSIM4 based HV subcircuit model for 10V LDPMOS (*)
************************************************************************************************

.lib typical
.param nfet_10v0_asym_dtox=0
.param nfet_10v0_asym_dxl=0
.param nfet_10v0_asym_dxw=0
.param nfet_10v0_asym_dvth0=0
.param nfet_10v0_asym_drdsw=1
.param nfet_10v0_asym_drdrift=1
.param nfet_10v0_asym_dvsat=1
.param nfet_10v0_asym_du0=1
.param nfet_10v0_asym_dcgs=1
.param nfet_10v0_asym_dcgd=1
.param nfet_10v0_asym_dcjs=1
.param nfet_10v0_asym_dcjd=1
.param pfet_10v0_asym_dtox=0
.param pfet_10v0_asym_dxl=0
.param pfet_10v0_asym_dxw=0
.param pfet_10v0_asym_dvth0=0
.param pfet_10v0_asym_drdsw=1
.param pfet_10v0_asym_drdrift=1
.param pfet_10v0_asym_dvsat=1
.param pfet_10v0_asym_du0=1
.param pfet_10v0_asym_dcgs=1
.param pfet_10v0_asym_dcgd=1
.param pfet_10v0_asym_dcjs=1
.param pfet_10v0_asym_dcjd=1
.lib 'smbb000149.spice' nfet_10v0_asym_t
.lib 'smbb000149.spice' pfet_10v0_asym_t
.lib 'smbb000149.spice' noise_corner
.endl

.lib ss
.param nfet_10v0_asym_dtox=8e-10
.param nfet_10v0_asym_dxl=6e-008
.param nfet_10v0_asym_dxw=-3.46e-8
.param nfet_10v0_asym_dvth0=0.112
.param nfet_10v0_asym_drdsw=1.2
.param nfet_10v0_asym_drdrift=1.271
.param nfet_10v0_asym_dvsat=0.926
.param nfet_10v0_asym_du0=0.95
.param nfet_10v0_asym_dcgs=1.1
.param nfet_10v0_asym_dcgd=1.2
.param nfet_10v0_asym_dcjs=1.1
.param nfet_10v0_asym_dcjd=1.2
.param pfet_10v0_asym_dtox=8e-10
.param pfet_10v0_asym_dxl=9.914e-008
.param pfet_10v0_asym_dxw=-1e-7
.param pfet_10v0_asym_dvth0=-0.0936
.param pfet_10v0_asym_drdsw=1.11
.param pfet_10v0_asym_drdrift=1.144
.param pfet_10v0_asym_dvsat=0.91
.param pfet_10v0_asym_du0=0.964
.param pfet_10v0_asym_dcgs=1.1
.param pfet_10v0_asym_dcgd=1.2
.param pfet_10v0_asym_dcjs=1.1
.param pfet_10v0_asym_dcjd=1.2
.lib 'smbb000149.spice' nfet_10v0_asym_t
.lib 'smbb000149.spice' pfet_10v0_asym_t
.lib 'smbb000149.spice' noise_corner
.endl

.lib ff
.param nfet_10v0_asym_dtox=-8e-10
.param nfet_10v0_asym_dxl=-6e-008
.param nfet_10v0_asym_dxw=3.46e-8
.param nfet_10v0_asym_dvth0=-0.10388
.param nfet_10v0_asym_drdsw=0.868
.param nfet_10v0_asym_drdrift=0.8245
.param nfet_10v0_asym_dvsat=1.033
.param nfet_10v0_asym_du0=1.04
.param nfet_10v0_asym_dcgs=0.9
.param nfet_10v0_asym_dcgd=0.8
.param nfet_10v0_asym_dcjs=0.9
.param nfet_10v0_asym_dcjd=0.8
.param pfet_10v0_asym_dtox=-8e-10
.param pfet_10v0_asym_dxl=-6.804e-008
.param pfet_10v0_asym_dxw=8.46e-8
.param pfet_10v0_asym_dvth0=0.099
.param pfet_10v0_asym_drdsw=0.91
.param pfet_10v0_asym_drdrift=0.89
.param pfet_10v0_asym_dvsat=1.06
.param pfet_10v0_asym_du0=1.03
.param pfet_10v0_asym_dcgs=0.9
.param pfet_10v0_asym_dcgd=0.8
.param pfet_10v0_asym_dcjs=0.9
.param pfet_10v0_asym_dcjd=0.8
.lib 'smbb000149.spice' nfet_10v0_asym_t
.lib 'smbb000149.spice' pfet_10v0_asym_t
.lib 'smbb000149.spice' noise_corner
.endl

.lib sf
.param nfet_10v0_asym_dtox=0
.param nfet_10v0_asym_dxl=5.024e-008
.param nfet_10v0_asym_dxw=0
.param nfet_10v0_asym_dvth0=0.068
.param nfet_10v0_asym_drdsw=1.2
.param nfet_10v0_asym_drdrift=1.156
.param nfet_10v0_asym_dvsat=0.928
.param nfet_10v0_asym_du0=0.97
.param nfet_10v0_asym_dcgs=1.07
.param nfet_10v0_asym_dcgd=1.14
.param nfet_10v0_asym_dcjs=1.07
.param nfet_10v0_asym_dcjd=1.14
.param pfet_10v0_asym_dtox=0
.param pfet_10v0_asym_dxl=-7.004e-008
.param pfet_10v0_asym_dxw=0
.param pfet_10v0_asym_dvth0=0.057672
.param pfet_10v0_asym_drdsw=0.91
.param pfet_10v0_asym_drdrift=0.92
.param pfet_10v0_asym_dvsat=1.012
.param pfet_10v0_asym_du0=1.03
.param pfet_10v0_asym_dcgs=0.93
.param pfet_10v0_asym_dcgd=0.86
.param pfet_10v0_asym_dcjs=0.93
.param pfet_10v0_asym_dcjd=0.86
.lib 'smbb000149.spice' nfet_10v0_asym_t
.lib 'smbb000149.spice' pfet_10v0_asym_t
.lib 'smbb000149.spice' noise_corner
.endl

.lib fs
.param nfet_10v0_asym_dtox=0
.param nfet_10v0_asym_dxl=-5.02e-008
.param nfet_10v0_asym_dxw=0
.param nfet_10v0_asym_dvth0=-0.058169
.param nfet_10v0_asym_drdsw=0.868
.param nfet_10v0_asym_drdrift=0.89748
.param nfet_10v0_asym_dvsat=1.045
.param nfet_10v0_asym_du0=1.034
.param nfet_10v0_asym_dcgs=0.93
.param nfet_10v0_asym_dcgd=0.86
.param nfet_10v0_asym_dcjs=0.93
.param nfet_10v0_asym_dcjd=0.86
.param pfet_10v0_asym_dtox=0
.param pfet_10v0_asym_dxl=9.414e-008
.param pfet_10v0_asym_dxw=0
.param pfet_10v0_asym_dvth0=-0.056
.param pfet_10v0_asym_drdsw=1.11
.param pfet_10v0_asym_drdrift=1.06
.param pfet_10v0_asym_dvsat=0.989
.param pfet_10v0_asym_du0=0.97
.param pfet_10v0_asym_dcgs=1.07
.param pfet_10v0_asym_dcgd=1.14
.param pfet_10v0_asym_dcjs=1.07
.param pfet_10v0_asym_dcjd=1.14
.lib 'smbb000149.spice' nfet_10v0_asym_t
.lib 'smbb000149.spice' pfet_10v0_asym_t
.lib 'smbb000149.spice' noise_corner
.endl

.lib statistical
.param mc_vsat2_10v='agauss(0,1,3)'
.param mc_rd_10v_2='agauss(0,1,3)'
.param mc_u0_10v_2='agauss(0,1,3)'
.param mc_cgol_10v_2='agauss(0,1,3)'
.param mc_vsatn2_10v='agauss(0,1,3)'
.param mc_rdn_10v_2='agauss(0,1,3)'
.param mc_u0n_10v_2='agauss(0,1,3)'
.param mc_cgoln_10v_2='agauss(0,1,3)'
.param mc_vsatp2_10v='agauss(0,1,3)'
.param mc_u0p2_10v='agauss(0,1,3)'
.param mc_rdp_10v_2='agauss(0,1,3)'
.param mc_cgolp_10v_2='agauss(0,1,3)'
.param mc_vsat_10v='mc_vsat2_10v'
.param mc_rd_10v='mc_rd_10v_2'
.param mc_u0_10v='mc_u0_10v_2'
.param mc_cgol_10v='mc_cgol_10v_2'
.param mc_vsatn_10v='mc_vsatn2_10v'
.param mc_rdn_10v='mc_rdn_10v_2'
.param mc_u0n_10v='mc_u0n_10v_2'
.param mc_cgoln_10v='mc_cgoln_10v_2'
.param mc_vsatp_10v='mc_vsatp2_10v'
.param mc_u0p_10v='mc_u0p2_10v'
.param mc_rdp_10v='mc_rdp_10v_2'
.param mc_cgolp_10v='mc_cgolp_10v_2'
.param nfet_10v0_asym_sig_vth='0.01675*(0.7*mc_sig_vth+0.7*mc_sig_vthn)*sw_stat_global*mc_skew'
.param nfet_10v0_asym_dtox='7.2e-11*(0.77*mc_toxe+0.63*mc_toxen)*sw_stat_global*mc_skew'
.param nfet_10v0_asym_dxl='5.3e-9*(0.71*mc_xl+0.69*mc_xln)*sw_stat_global*mc_skew'
.param nfet_10v0_asym_dxw='3.25e-8*(0.77*mc_xw+0.63*mc_xwn)*sw_stat_global*mc_skew'
.param nfet_10v0_asym_dvth0='nfet_10v0_asym_sig_vth'
.param nfet_10v0_asym_drdsw='(1+0.093*(0.77*mc_rd_10v+0.63*mc_rdn_10v)*sw_stat_global*mc_skew)'
.param nfet_10v0_asym_drdrift='(1+0.037*(0.77*mc_rd_10v+0.63*mc_rdn_10v)*sw_stat_global*mc_skew)'
.param nfet_10v0_asym_dvsat='(1+0.028*(0.77*mc_vsat_10v+0.63*mc_vsatn_10v)*sw_stat_global*mc_skew)'
.param nfet_10v0_asym_du0='(1+0.0157*(0.7*mc_u0_10v+0.7*mc_u0n_10v)*sw_stat_global*mc_skew)'
.param nfet_10v0_asym_dcgs='(1+(12e-3*mc_cgol_10v+12e-3*mc_cgoln_10v)*sw_stat_global*mc_skew)'
.param nfet_10v0_asym_dcgd='(1+(24e-3*mc_cgol_10v+24e-3*mc_cgoln_10v)*sw_stat_global*mc_skew)'
.param nfet_10v0_asym_dcjs='(1+(12e-3*mc_cgol_10v+12e-3*mc_cgoln_10v)*sw_stat_global*mc_skew)'
.param nfet_10v0_asym_dcjd='(1+(24e-3*mc_cgol_10v+24e-3*mc_cgoln_10v)*sw_stat_global*mc_skew)'
.param pfet_10v0_asym_sig_dvth1='0.01692*(-0.7*mc_sig_vth+0.7*mc_sig_vthp)*sw_stat_global*mc_skew'
.param pfet_10v0_asym_dtox='7.143e-11*(0.77*mc_toxe+0.63*mc_toxep)*sw_stat_global*mc_skew'
.param pfet_10v0_asym_dxl='1.7e-8*(0.71*mc_xl+0.69*mc_xlp)*sw_stat_global*mc_skew'
.param pfet_10v0_asym_dxw='7.4e-8*(0.77*mc_xw+0.63*mc_xwp)*sw_stat_global*mc_skew'
.param pfet_10v0_asym_dvth0='pfet_10v0_asym_sig_dvth1'
.param pfet_10v0_asym_drdsw='(1+0.085*(0.77*mc_rd_10v+0.63*mc_rdp_10v)*sw_stat_global*mc_skew)'
.param pfet_10v0_asym_drdrift='(1+0.032*(0.77*mc_rd_10v+0.63*mc_rdp_10v)*sw_stat_global*mc_skew)'
.param pfet_10v0_asym_dvsat='(1+0.032*(0.77*mc_vsat_10v+0.63*mc_vsatp_10v)*sw_stat_global*mc_skew)'
.param pfet_10v0_asym_du0='(1+0.0097*(0.7*mc_u0_10v+0.7*mc_u0p_10v)*sw_stat_global*mc_skew)'
.param pfet_10v0_asym_dcgs='(1+(12e-3*mc_cgol_10v+12e-3*mc_cgolp_10v)*sw_stat_global*mc_skew)'
.param pfet_10v0_asym_dcgd='(1+(24e-3*mc_cgol_10v+24e-3*mc_cgolp_10v)*sw_stat_global*mc_skew)'
.param pfet_10v0_asym_dcjs='(1+(12e-3*mc_cgol_10v+12e-3*mc_cgolp_10v)*sw_stat_global*mc_skew)'
.param pfet_10v0_asym_dcjd='(1+(24e-3*mc_cgol_10v+24e-3*mc_cgolp_10v)*sw_stat_global*mc_skew)'
.lib 'smbb000149.spice' nfet_10v0_asym_t
.lib 'smbb000149.spice' pfet_10v0_asym_t
.lib 'smbb000149.spice' noise_corner
.endl

.lib noise_corner
.param nfet_10v0_asym_noia='(fnoicor==0)*1.1021e42+(fnoicor==1)*2.5852e42'
.param nfet_10v0_asym_noib='(fnoicor==0)*2.8476e24+(fnoicor==1)*6.5096e+024'
.param nfet_10v0_asym_noic='(fnoicor==0)*8.75+(fnoicor==1)*8.75'
.param pfet_10v0_asym_noia='(fnoicor==0)*2.9073e+041+(fnoicor==1)*1.7073e+042'
.param pfet_10v0_asym_noib='(fnoicor==0)*8.0736e+025+(fnoicor==1)*2.4523e+026'
.param pfet_10v0_asym_noic='(fnoicor==0)*12780+(fnoicor==1)*12780'
.endl

.lib nfet_10v0_asym_t
.subckt nfet_10v0_asym d g s b w=25e-6 l=0.6e-6 nf=1 m=1 ad='w*1.48e-6' pd='2*(1.48e-6+w)' as='w*0.48e-6' ps='(w+0.48e-6)*2' nrd=0 nrs=0 dtemp=0 sa=0 sb=0 sd=0 par=1
.param rdrift1=1.5433e3
.param wa=-1.6705e-8
.param rd=0.17322
.param ra=4.631e-3
.param rb=1.1181
.param lb=-1.0648e-6
.param wb=-2.8512e-7
.param trx1=2.8643e-3
.param trx2=1.0098e-5
.param trth1=5.5e-4
.param trth2=0
.param cgdl_d2=5.0343e-10
.param toxep=1.376e-8
.param lcgd_d2=6.4774e-10
.param cgdv_d=1.0253
.param cgd_val=0.20473
.param cgsl_s=1.2929e-10
.param lcgs=2.9695e-8
.param cgs_slope=4.0853
.param cgs_vth=0.10612
.param cgs_factor=0.9
.param vthd=4.18986e-2
.param cgd_vthd=0.31232
.param cgb_slope=1.0158
.param cgb_vth=0.82325
.param cgb_amp=1.3591e-9
.param cgb_min=7.4448e-10
.param cgb_power=2.5552
.param lcgd_d=1.4497e-7
.param polar_d=-1.0276e-3
.param polard_min=7.05
.param polar_s=-0.35192
.param polars_min=4.2
.param cgs_factor2=1
.param cgdv_d2=-2.1473
.param cgdl_d=1.3222e-11
.param cgs_vth1=0.20635
.param cgds_fixed='3.9*8.854e-12/toxep'
rdrift d d2 '(rdrift1*nfet_10v0_asym_drdrift)*1.2e-6/(w/nf-wa)' m=nf tc1=trx1 tc2=trx2
rd2 d2 d1 'max(1e-2,(rd*nfet_10v0_asym_drdsw*(1+trth1*(temper+dtemp-25)+trth2*(temper+dtemp-25)*(temper+dtemp-25)))/(w/nf-wb)*(tanh(ra*(v(d,s)-rb*(l-lb)/(0.6e-6-lb)))))' m=nf
m0 d1 g s b nfet_10v0_asym_core ad=ad as=as l=l m=m nf=nf nrd=nrd nrs=nrs pd=pd ps=ps sa=sa sb=sb sd=sd w=w
c1_gd g d c='nfet_10v0_asym_dcgd*1.89e-14'
c1_gd2 g d1 c='nfet_10v0_asym_dcgd*2.6e-14'
c2_gs g s c='nfet_10v0_asym_dcgs*1.1e-14'
c3_gb g b '1.284e-9*w'
.model nfet_10v0_asym_core.1 nmos
+ a0=1.0212
+ a1=-0.065307
+ a2=0.94
+ acde=0.54775
+ acnqsmod=0
+ agidl=5.7877e-16
+ ags=0.13804
+ alpha0=-2.5481e-7
+ alpha1=0.59769
+ at=3.3e4
+ b0=6.48e-6
+ b1=5.9519e-5
+ beta0=37.485
+ bgidl=1.171e9
+ binunit=1
+ bvd=14.5
+ bvs=11
+ capmod=2
+ cdsc=1.1424e-5
+ cdscb=2.4894e-6
+ cdscd=0
+ cgbo=1e-13
+ cgdl=0
+ cgdo=0
+ cgidl=0.228
+ cgsl=0
+ cgso=0
+ cit=0
+ cjd='1.4914e-4*nfet_10v0_asym_dcjd'
+ cjs='9.5e-4*nfet_10v0_asym_dcjs'
+ cjswd='5.8719e-10*nfet_10v0_asym_dcjd'
+ cjswgd='5.8719e-10*nfet_10v0_asym_dcjd'
+ cjswgs='1.33e-10*nfet_10v0_asym_dcjs'
+ cjsws='1.33e-10*nfet_10v0_asym_dcjs'
+ ckappad=0.6
+ ckappas=0.6
+ delta=0.01
+ diomod=2
+ dlc=1.723e-7
+ drout=0.45
+ dsub=0.56
+ dvt0=0.09762
+ dvt0w=3.4488
+ dvt1=0.021131
+ dvt1w=9.5865e4
+ dvt2=-0.046683
+ dvt2w=0.034426
+ dvtp0=0
+ dvtp1=0
+ dwb=-3.3647e-8
+ dwg=-2.9807e-8
+ ef=1.0914
+ egidl=0.0968
+ em=4.1e7
+ epsrox=3.9
+ eta0=0.039833
+ etab=-1.2928
+ fnoimod=1
+ geomod=0
+ igbmod=0
+ igcmod=0
+ jsd=1.6119e-6
+ jss=6.88e-7
+ jswd=4.824e-12
+ jswgd=4.824e-12
+ jswgs=4.88e-13
+ jsws=4.88e-13
+ jtsd=1.4513e-4
+ k1=0.9621
+ k2=-7.2357e-3
+ k3=13.237
+ k3b=0.25485
+ keta=-0.01362
+ kt1=-0.42425
+ kt1l=-1.8892e-8
+ kt2=-0.060553
+ la0=-0.55504
+ lags=0
+ lat=0
+ lbeta0=-11.164
+ level=54
+ lint=0
+ lk1=0
+ lk2=0
+ lketa=-3.3807e-3
+ ll=0
+ lln=1
+ lmax=20.01e-6
+ lmin=6e-7
+ lnfactor=6.48e-7
+ lnoff=1
+ lpe0=1.0439e-6
+ lpeb=6.2517e-7
+ lu0='5.2003e-3*nfet_10v0_asym_du0'
+ lua=4.2194e-10
+ lua1=0
+ lub=-1.9302e-18
+ lub1=0
+ luc=-4.7702e-11
+ lute=0.045577
+ lvsat='9844*nfet_10v0_asym_dvsat'
+ lvth0=0
+ lw=0
+ lwl=0
+ lwn=1
+ minv=0
+ mjd=0.30525
+ mjs=0.296
+ mjswd=0.21757
+ mjswgd=0.21757
+ mjswgs=0.01
+ mjsws=0.01
+ mobmod=0
+ moin=16.92
+ ndep=1.7e17
+ nfactor=0.90694
+ ngate=2.9861e21
+ njd=1
+ njs=1.0541
+ noff=1.9257
+ noia='nfet_10v0_asym_noia'
+ noib='nfet_10v0_asym_noib'
+ noic='nfet_10v0_asym_noic'
+ nsd=1e20
+ paramchk=1
+ pat=-9e3
+ pbd=0.43905
+ pbeta0=-0.645
+ pbs=0.606
+ pbswd=0.48991
+ pbswgd=0.48991
+ pbswgs=0.48
+ pbsws=0.48
+ pclm=0.02794
+ pdiblc1=0.46226
+ pdiblc2=1.092e-4
+ pdiblcb=-5e-3
+ permod=1
+ phin=0
+ pkt1=0
+ pkt2=-0.09625
+ pprt=0
+ pprwb=0
+ pprwg=0
+ prdsw=0
+ prt=200
+ prwb=0.81
+ prwg=0.037838
+ pscbe1=4.9654e8
+ pscbe2=1.6381e-7
+ pu0='3.9064e-3*nfet_10v0_asym_du0'
+ pua=0
+ pua1=0
+ pub=-6.8e-19
+ pub1=0
+ puc=-6.8588e-11
+ pute=0.17695
+ pvag=0.9
+ pvsat=-3.168e3
+ pvth0=0.19879
+ rbodymod=0
+ rdsmod=0
+ rdsw='200*nfet_10v0_asym_drdsw'
+ rdswmin=500
+ rsh=7
+ tcj=1.65e-3
+ tcjsw=1.61e-3
+ tcjswg=1.61e-3
+ tempmod=0
+ tnoimod=0
+ tnom=25
+ toxe='1.398e-8+nfet_10v0_asym_dtox'
+ tpb=2.11e-3
+ tpbsw=1.9e-3
+ tpbswg=1.9e-3
+ trnqsmod=0
+ u0='0.0486*nfet_10v0_asym_du0'
+ ua=-1.05e-10
+ ua1=3.2446e-9
+ ub=3.0678e-18
+ ub1=-4.2148e-18
+ uc=1.0312e-10
+ uc1=-7.2993e-11
+ ute=-1.3028
+ version=4.6
+ vfb=-0.55
+ voff=-0.092552
+ voffcv=-0.038
+ voffl=-1.4059e-8
+ vsat='7.9784e4*nfet_10v0_asym_dvsat'
+ vth0='0.653+nfet_10v0_asym_dvth0'
+ vtsd=2.16
+ w0=1e-6
+ wags=-0.012
+ wbeta0=2.034
+ wint=0
+ wk3=0
+ wkt1=0
+ wl=0
+ wln=1
+ wmax=50.01e-6
+ wmin=4e-6
+ wr=1
+ wu0='-0.020672*nfet_10v0_asym_du0'
+ wvsat=0
+ wvth0=0
+ ww=0
+ wwl=0
+ wwn=1
+ xj=1.5e-7
+ xjbvd=1
+ xjbvs=1
+ xl='0+nfet_10v0_asym_dxl'
+ xpart=1
+ xtid=3
+ xtis=3
+ xtsd=0.63818
+ xw='0+nfet_10v0_asym_dxw'
.ends nfet_10v0_asym
.endl

.lib pfet_10v0_asym_t
.subckt pfet_10v0_asym d g s b w=2.5e-5 l=6e-7 dtemp=0 nf=1 m=1 ad='(w*1.78e-6)' pd='2*(w+1.78e-6)' as='w*0.48e-6' ps='(w+0.48e-6)*2' nrd=0 nrs=0 sa=0 sb=0 sd=0 par=1
.param rdrift=5.751e-3
.param rd=0.94645
.param ra=1.1954e-3
.param rb=1.5957
.param lb=6.78e-6
.param wa=-6.5504e-7
.param wb=4.1955e-8
.param trx1=2.836e-3
.param trx2=7.4236e-6
.param trd1=-3.7522e-3
.param cgdl_d2=4.3795e-10
.param toxep=1.568e-8
.param lcgd_d2=6.4774e-10
.param cgdv_d=1.0253
.param cgd_val=0.20473
.param cgsl_s=1.2929e-11
.param lcgs=6.4247e-9
.param cgs_slope=0.81706
.param cgs_vth=0.021224
.param cgs_factor=0.9
.param vthd=4.18986e-2
.param cgd_vthd=0.31232
.param cgb_slope=1.0219
.param cgb_vth=0.89948
.param cgb_amp=9.9049e-10
.param cgb_min=3.2564e-11
.param cgb_power=2.5552
.param lcgd_d=1.4497e-7
.param polar_d=-4.1926e-4
.param polard_min=7.05
.param polar_s=-0.35192
.param polars_min=4.2
.param cgs_factor2=1
.param cgdv_d2=-1.2197
.param cgdl_d=1.6046e-11
.param cgs_vth1=0.13041
.param cgds_fixed='3.9*8.854e-12/toxep'
rd1 d d2 '(rdrift*pfet_10v0_asym_drdrift)/(w/nf-wa)' m=nf tc1=trx1 tc2=trx2
rd2 d2 d1 'max(0.1,(rd*pfet_10v0_asym_drdsw*(1+trd1*(temper+dtemp-25))/(w/nf-wb)*(tanh(ra*(v(s,d)-rb*(l-lb)/(0.6e-6-lb))))))' m=nf
m0 d1 g s b pfet_10v0_asym_core ad=ad as=as l=l m=m nf=nf nrd=nrd nrs=nrs pd=pd ps=ps sa=sa sb=sb sd=sd w=w
c1_gd g d c='pfet_10v0_asym_dcgd*1.89e-14'
c1_gd2 g d1 c='pfet_10v0_asym_dcgd*2.6e-14'
c2_gs g s c='pfet_10v0_asym_dcgs*1.1e-14'
c3_gb g b '1.284e-9*w'
.model pfet_10v0_asym_core.1 pmos
+ a0=1.1348
+ a1=-0.07052
+ a2=1
+ acde=1
+ acnqsmod=0
+ agidl=3.7498e-17
+ ags=0.0834
+ aigbacc=0.43
+ aigbinv=0.35
+ aigc=0.43
+ aigsd=0.43
+ alpha0=7.0634e-8
+ alpha1=0.14712
+ at=3.96e3
+ b0=0
+ b1=0
+ beta0=66.68
+ bgidl=1.196e8
+ bigbacc=0.054
+ bigbinv=0.03
+ bigc=0.054
+ bigsd=0.054
+ binunit=2
+ bvd=14.5
+ bvs=10.5
+ capmod=2
+ cdsc=4.248e-4
+ cdscb=6e-5
+ cdscd=0
+ cgbo=0
+ cgdl=0
+ cgdo=0
+ cgidl=0.5
+ cgsl=0
+ cgso=0
+ cigbacc=0.075
+ cigbinv=6e-3
+ cigc=0.075
+ cigsd=0.075
+ cit=0
+ cjd='3.2124e-4*pfet_10v0_asym_dcjd'
+ cjs='9.12e-4*pfet_10v0_asym_dcjs'
+ cjswd='5.4659e-10*pfet_10v0_asym_dcjd'
+ cjswgd='5.4659e-10*pfet_10v0_asym_dcjd'
+ cjswgs='1.4649e-10*pfet_10v0_asym_dcjs'
+ cjsws='1.4649e-10*pfet_10v0_asym_dcjs'
+ ckappad=0.6
+ ckappas=0.6
+ clc=1e-7
+ cle=0.6
+ delta=0.01
+ diomod=0
+ dlc=5.0579e-8
+ drout=0.56
+ dsub=0.56
+ dvt0=4.0503
+ dvt0w=0
+ dvt1=0.16044
+ dvt1w=2.7518e4
+ dvt2=-0.038473
+ dvt2w=-0.032
+ dvtp0=0
+ dvtp1=0
+ dwb=0
+ dwg=1.0544e-8
+ ef=1.1237
+ egidl=0.8
+ eigbinv=1.1
+ em=4.1e7
+ epsrox=3.9
+ eta0=0.08
+ etab=-0.57865
+ eu=1.67
+ fnoimod=1
+ fprout=0
+ geomod=0
+ igbmod=0
+ igcmod=0
+ jsd=5.2139e-7
+ jss=2.0867e-7
+ jswd=1.5e-13
+ jswgd=1.5e-13
+ jswgs=1.6088e-13
+ jsws=1.6088e-13
+ jtsd=1.0891e-6
+ k1=1.09
+ k2=-0.014623
+ k3=5.4746
+ k3b=3.8727
+ keta=-1.504e-3
+ kt1=-0.45028
+ kt1l=-4.1552e-8
+ kt2=-0.05137
+ la0=-3.8459e-7
+ lags=0
+ lbeta0=-2.1875e-6
+ level=54
+ lint=0
+ lketa=-2.0415e-8
+ ll=0
+ llpe0=0
+ lmax=20.01e-6
+ lmin=6e-7
+ lnoff=1.2657e-6
+ lpe0=2.814e-7
+ lpeb=3.068e-7
+ lu0='2.7385e-9*pfet_10v0_asym_du0'
+ lua=1.2893e-16
+ lua1=0
+ lub=0
+ lub1=-2.0019e-25
+ luc=5.88e-17
+ luc1=0
+ lute=-1.1751e-7
+ lwl=0
+ minv=0
+ mjd=0.31113
+ mjs=0.32713
+ mjswd=0.39816
+ mjswgd=0.39816
+ mjswgs=0.056777
+ mjsws=0.056777
+ mobmod=0
+ moin=11.1
+ ndep=1.7e17
+ nfactor=1.096
+ ngate=1e20
+ nigbacc=1
+ nigbinv=3
+ nigc=1
+ noff=1.8144
+ noia='pfet_10v0_asym_noia'
+ noib='pfet_10v0_asym_noib'
+ noic='pfet_10v0_asym_noic'
+ nsd=1e20
+ ntox=1
+ pags=6.4229e-13
+ paramchk=1
+ pbd=0.63391
+ pbeta0=0
+ pbs=0.76836
+ pbswd=0.77752
+ pbswgd=0.77752
+ pbswgs=0.5
+ pbsws=0.5
+ pclm=0.37315
+ pdiblc1=0.09466
+ pdiblc2=5.586e-8
+ pdiblcb=0
+ pdits=0
+ pditsd=0
+ pditsl=0
+ pdvt0=-2.3525e-12
+ pdvt1=0
+ permod=1
+ phin=0.061992
+ pigcd=1
+ pk2=-9.04e-14
+ pketa=-7.5094e-014
+ pkt1=0
+ pkt2=-1.1e-13
+ plpe0=0
+ poxedge=1
+ prt=0
+ prwb=1.24
+ prwg=1
+ pscbe1=5.9843e8
+ pscbe2=9.3757e-8
+ pu0='-2e-15*pfet_10v0_asym_du0'
+ pua=6.315e-22
+ pute=1.0911e-13
+ pvag=1.2
+ pvsat=0
+ pvth0=1.44e-14
+ rbodymod=0
+ rdsmod=0
+ rdsw='200*pfet_10v0_asym_drdsw'
+ rdswmin=0
+ rdw=100
+ rdwmin=0
+ rsh=5.6
+ rshg=0.4
+ rsw=100
+ rswmin=0
+ tempmod=0
+ tnoimod=0
+ toxe='1.568e-8+pfet_10v0_asym_dtox'
+ trnqsmod=0
+ u0='0.013723*pfet_10v0_asym_du0'
+ ua=1.26e-9
+ ua1=5e-10
+ ub=7.2608e-19
+ ub1=-2.2324e-18
+ uc=-4.5217e-11
+ uc1=-3.0912e-11
+ ute=-1.245
+ vbm=-3
+ version=4.6
+ vfb=-1
+ vfbcv=-1
+ voff=-0.08768
+ voffcv=-3.8635e-3
+ voffl=0
+ vsat='71505*pfet_10v0_asym_dvsat'
+ vth0='-0.888+pfet_10v0_asym_dvth0'
+ vtsd=2.44
+ w0=3.24e-6
+ wags=6.5664e-9
+ wbeta0=4.86e-6
+ wdvt0=0
+ wdvt1=0
+ wint=0
+ wk2=0
+ wketa=2.68e-008
+ wkt1=0
+ wlpe0=-3.5894e-13
+ wmax=50.01e-6
+ wmin=4e-6
+ wr=1
+ wu0='-7e-10*pfet_10v0_asym_du0'
+ wute=-4e-8
+ wvsat=0
+ wvth0=0
+ ww=0
+ wwl=0
+ xj=1.5e-7
+ xjbvd=1
+ xjbvs=1
+ xl='0+pfet_10v0_asym_dxl'
+ xtsd=0.92538
+ xw='0+pfet_10v0_asym_dxw'
.ends pfet_10v0_asym
.endl
